US04567172
11β-Hydroxy-21-isobutyryloxy-6α-methyl-17α-methylthioacetoxy-1,4-pregnadiene-3,20-dione
Using 232 mg of 11β,21-dihydroxy-6α-methyl-17α-methylthioacetoxy-1,4-pregnadiene-3,20-dione, the reaction with isobutyric anhydride was carried out in the same manner as described in Example 11 and the reaction mixture was treated similarly whereby 224 mg (yield: 84.2%) of the title compound was obtained as colorless needle crystals.

reactant | 11β,21-dihydroxy-6α-methyl-17α-methylthioacetoxy-1,4-pregnadiene-3,20-dione | 232 mg | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3[C@H](C[C@H]2[C@@H]2CC[C@](C(CO)=O)([C@]2(C1)C)OC(CC)=S)C)=O)C | C25H34O5S
reactant | isobutyric anhydride | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
product | 11β-Hydroxy-21-isobutyryloxy-6α-methyl-17α-methylthioacetoxy-1,4-pregnadiene-3,20-dione | 224 mg, yield: 84.2% | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3[C@H](C[C@H]2[C@@H]2CC[C@](C(COC(C(C)C)=O)=O)([C@]2(C1)C)OC(CC)=S)C)=O)C | C29H40O6S
